US04996358
19.7 g of laurolactam in 100 ml of chloroform were cooled to 0° C. 20.8 g of phosphorus pentachloride were added portionwise over a period of 40 minutes while keeping the temperature below 5° C. There was then added 0.2 g of iodine, followed by 16.0 g (0.2 mol) of bromine over a period of 20 minutes. The mixture was heated under reflux for 4 hours, cooled, evaporated and poured on to ice. The product was taken up in chloroform, washed with sodium hydrogen sulfate solution, dried over anhydrous magnesium sulfate and evaporated. Crystallization from chloroform/ n-hexane yielded 12.65 g (46%) of 3-bromolaurolactam of melting point 155°-157° C.

reactant | laurolactam | 19.7 g | C1(CCCCCCCCCCCN1)=O | C12H23NO
reactant | phosphorus pentachloride | 20.8 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | bromine | 0.2 mol, 16.0 g | BrBr | Br2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | iodine | 0.2 g | II | I2
product | 3-bromolaurolactam | 12.65 g, 46% | BrC1CC(=O)NCCCCCCCCC1 | C12H22BrNO
